US07495103B2
To a solution of 3,5-di-tert-butylcyclohexa-3,5-diene-1,2-dione (4.20 g, 19.1 mmol) in acetic acid (115 mL) was slowly added HNO3 (15 mL). The mixture was heated at 60° C. for 40 min before it was poured into H2O (50 mL). The mixture was allowed to stand at room temperature for 2 h, then was placed in an ice bath for 1 h. The solid was collected and washed with water to provide 4,6-di-tert-butyl-3-nitrocyclohexa-3,5-diene-1,2-dione (1.2 g, 24%). 1H NMR (400 MHz, DMSO-d6) δ 6.89 (s, 1H), 1.27 (s, 9H), 1.24 (s, 9H).

reactant | 3,5-di-tert-butylcyclohexa-3,5-diene-1,2-dione | 19.1 mmol, 4.20 g | C(C)(C)(C)C=1C(C(C=C(C1)C(C)(C)C)=O)=O | C14H20O2
reactant | HNO3 | 15 mL | [N+](=O)(O)[O-] | HNO3
reactant | H2O | 50 mL | O | H2O
solvent | acetic acid | 115 mL | C(C)(=O)O | C2H4O2
product | 4,6-di-tert-butyl-3-nitrocyclohexa-3,5-diene-1,2-dione | 1.2 g, 24% | C(C)(C)(C)C1=C(C(C(C(=C1)C(C)(C)C)=O)=O)[N+](=O)[O-] | C14H19NO4
